*
* .CONNECT statements
*
.CONNECT GROUND 0


* ELDO netlist generated with ICnet by 'dlavila' on Tue Dec 17 2013 at 17:50:31

*
* Globals.
*
.global GROUND VDD


*
* Component pathname : $MGC_DESIGN_KIT/symbols/RNHR1000_MM [ELDOSPICE]
*
*       .include /usr/local/mentor/UMC180PDK/symbols/RNHR1000_MM/rnhr1000_mm

*
* MAIN CELL: Component pathname : $SC_filter/default.group/logic.views/BIAS
*
        M39 N$205 N$208 GROUND GROUND n_18_mm l=1.8u w=1.2u ad=0.588p as=0.588p
+  pd=3.38u ps=3.38u m=1
        M18 N$104 N$104 GROUND GROUND n_18_mm l=1.8u w=0.24u ad=0.118p as=0.118p
+  pd=1.46u ps=1.46u m=1
        M44 N$290 N$228 VDD VDD p_18_mm l=0.36u w=2.4u ad=1.176p as=1.176p
+  pd=5.78u ps=5.78u m=1
        M6 N$20 VBIASP VDD VDD p_18_mm l=0.36u w=2.4u ad=1.176p as=1.176p
+  pd=5.78u ps=5.78u m=1
        M5 N$20 N$20 N$6 GROUND n_18_mm l=0.36u w=4.8u ad=2.352p as=2.352p
+  pd=10.58u ps=10.58u m=1
        M4 N$10 N$20 GROUND GROUND n_18_mm l=0.36u w=1.2u ad=0.588p as=0.588p
+  pd=3.38u ps=3.38u m=1
        M3 N$10 N$10 VDD VDD p_18_mm l=0.36u w=2.4u ad=1.176p as=1.176p
+  pd=5.78u ps=5.78u m=1
        M2 VBIASP N$10 VDD VDD p_18_mm l=0.36u w=2.4u ad=1.176p as=1.176p
+  pd=5.78u ps=5.78u m=1
        R1 N$6 GROUND 5.5K
        M15 N$94 N$104 N$109 GROUND n_18_mm l=0.36u w=1.2u ad=0.588p as=0.588p
+  pd=3.38u ps=3.38u m=1
        M16 N$96 N$104 N$97 GROUND n_18_mm l=0.36u w=1.5u ad=0.735p as=0.735p
+  pd=3.98u ps=3.98u m=1
        M17 N$104 VBIASP VDD VDD p_18_mm l=0.36u w=2.4u ad=1.176p as=1.176p
+  pd=5.78u ps=5.78u m=1
        M36 N$208 N$208 VDD VDD p_18_mm l=0.36u w=2.4u ad=1.176p as=1.176p
+  pd=5.78u ps=5.78u m=1
        C1 VDD GROUND 1u
        R7 N$63 VDD 50
        M37 N$208 N$290 N$205 GROUND n_18_mm l=0.36u w=1.2u ad=0.588p as=0.588p
+  pd=3.38u ps=3.38u m=1
        M12 N$94 VBIASP VDD VDD p_18_mm l=0.36u w=2.4u ad=1.176p as=1.176p
+  pd=5.78u ps=5.78u m=1
        V1 N$63 GROUND PWL ( 0 0 100n 0 100.1n 1.8 )
        M40 N$289 N$228 VDD VDD p_18_mm l=0.36u w=2.4u ad=1.176p as=1.176p
+  pd=5.78u ps=5.78u m=1
        M41 N$289 N$238 N$228 VDD p_18_mm l=0.18u w=1.2u ad=0.588p as=0.588p
+  pd=3.38u ps=3.38u m=1
        M43 N$238 N$238 GROUND GROUND n_18_mm l=10u w=1.2u ad=0.588p as=0.588p
+  pd=3.38u ps=3.38u m=1
        Q5 GROUND GROUND N$289 pnp_v50x50_mm m=1
        M35 N$228 N$208 VDD VDD p_18_mm l=0.36u w=2.4u ad=1.176p as=1.176p
+  pd=5.78u ps=5.78u m=1
        M19 VDD VBIASP VDD VDD p_18_mm l=12u w=12u ad=5.88p as=5.88p pd=24.98u
+  ps=24.98u m=1
        M1 VBIASP N$114 GROUND GROUND n_18_mm l=0.36u w=1.2u ad=0.588p as=0.588p
+  pd=3.38u ps=3.38u m=1
        XR4 N$290 N$270 GROUND rnhr1000_mm lr=11u wr=0.25u m=1
        M42 N$238 N$228 VDD VDD p_18_mm l=0.36u w=2.4u ad=1.176p as=1.176p
+  pd=5.78u ps=5.78u m=1
        XR3 N$289 GROUND GROUND rnhr1000_mm lr=0.1m wr=0.25u m=1
        Q6 GROUND GROUND N$270 pnp_v50x50_mm m=8
        M45 VREF N$228 VDD VDD p_18_mm l=0.36u w=2.4u ad=1.176p as=1.176p
+  pd=5.78u ps=5.78u m=1
        XR5 N$290 GROUND GROUND rnhr1000_mm lr=0.1m wr=0.25u m=1
        M38 N$228 N$289 N$205 GROUND n_18_mm l=0.36u w=1.2u ad=0.588p as=0.588p
+  pd=3.38u ps=3.38u m=1
        XR6 VREF GROUND GROUND rnhr1000_mm lr=40u wr=0.25u m=1
        R2 VDD N$96 5.5K
        M14 N$97 N$94 GROUND GROUND n_18_mm l=0.36u w=1.5u ad=0.735p as=0.735p
+  pd=3.98u ps=3.98u m=1
        M20 VDD N$228 VDD VDD p_18_mm l=20u w=20u ad=9.8p as=9.8p pd=40.98u
+  ps=40.98u m=1
        M13 N$109 N$94 GROUND GROUND n_18_mm l=0.36u w=1.2u ad=0.588p as=0.588p
+  pd=3.38u ps=3.38u m=1
        M10 VBIASP N$64 N$114 GROUND n_18_mm l=0.18u w=0.24u ad=0.118p as=0.118p
+  pd=1.46u ps=1.46u m=1
        M11 N$64 N$64 VDD VDD p_18_mm l=4u w=0.24u ad=0.118p as=0.118p pd=1.46u
+  ps=1.46u m=1
        M9 N$64 N$114 GROUND GROUND n_18_mm l=0.36u w=1.2u ad=0.588p as=0.588p
+  pd=3.38u ps=3.38u m=1
        M7 N$114 N$114 GROUND GROUND n_18_mm l=0.36u w=1.2u ad=0.588p as=0.588p
+  pd=3.38u ps=3.38u m=1
        M8 N$114 VBIASP VDD VDD p_18_mm l=0.36u w=2.4u ad=1.176p as=1.176p
+  pd=5.78u ps=5.78u m=1
*
.end
